US04937243
Diethyl 3-hydroxy-2(2-methylpropyl)pentanedioate (D2)
Sodium borohydride (1.1 g, 29 mmol) was added to an ice-cold solution of diethyl 2-(2-methylpropyl)-3-oxopentanedioate (7.5 g, 29 mmol) in ethanol (75 ml). The mixture was stirred at 5°-10° C. for 2 h, then 2N hydrochloric acid (18 ml) was added slowly at 0° C., and the mixture was stirred at room temperature for 45 min. The mixture was diluted with water (400 ml), then was extracted with ethyl acetate (4×100 ml). The extracts were washed with water (2 100 ml) and brine (100 ml), then were dried (Na2SO4) and evaporated in vacuo to leave the title compound as an oil (7.5 g, 100%).

reactant | Sodium borohydride | 29 mmol, 1.1 g | [BH4-].[Na+]
reactant | diethyl 2-(2-methylpropyl)-3-oxopentanedioate | 29 mmol, 7.5 g | CC(CC(C(=O)OCC)C(CC(=O)OCC)=O)C | C13H22O5
reactant | hydrochloric acid | 2N, 18 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | Diethyl 3-hydroxy-2(2-methylpropyl)pentanedioate | 7.5 g, 100% | OC(C(C(=O)OCC)CC(C)C)CC(=O)OCC | C13H24O5
